US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and cyclohexyl phosphonic dichloride. The crude product produced as a result of the chromatographic separation yielded without additional purification 1-cyclohexyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (2.7 g, 14.5% yield) as a beige solid having a melting point of 167°-169° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | cyclohexyl phosphonic dichloride | C1(CCCCC1)P(=O)(Cl)Cl | C6H11Cl2OP
product | 1-cyclohexyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 2.7 g, 14.5% yield | C1(CCCCC1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C19H22NOP
